US07402684B2
Immediately before the assay, LTA4 was diluted to a concentration of 10 μM in assay buffer (without DMSO) and added to the reaction mixture to a final concentration of 2 μM to initiate the enzyme reaction. After incubation for 120 sec at room temperature, the reaction was stopped by adding 2 volumes of chilled quenching buffer, containing acetonitril with 1% acetic acid and 225 nM LTB4-d4 (Biomol). The samples were then kept at 4° C. overnight to complete protein precipitation and centrifuged for 15 min at 1800 g. LTB4 formed was measured by LC-MS/MS using LTB4-d4 as an internal standard and an external LTB4 standard (Biomol) as reference. Based on the amounts of LTB4 found at each inhibitor concentration, a dose-response curve was fitted to the data and an IC50 value was calculated.

reactant | LTA4 | CCCCC/C=C\C/C=C\C=C\C=C\[C@H]1[C@@H](O1)CCCC(=O)O | C20H30O3
reactant | DMSO | CS(=O)C | C2H6OS
product | LTB4 | CCCCC/C=C\C[C@H](/C=C/C=C/C=C\[C@H](CCCC(=O)O)O)O | C20H32O4
